******************************************
*
*1N4148
*
*NXP Semiconductors
*
*High-speed diodes
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 100V
*IFRM = 450 mA 
*trr  = 4ns
*
*Package: SOD 27
*
*Package Pin 1 : Cathode
*Package Pin 2 : Anode
*
*
*
*
*Simulator: PSPICE
*
******************************************
*
.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.MODEL bd135 npn
+IS=1e-09 BF=222.664 NF=0.85 VAF=36.4079
+IKF=0.166126 ISE=5.03418e-09 NE=1.45313 BR=1.35467
+NR=1.33751 VAR=142.931 IKR=1.66126 ISC=5.02557e-09
+NC=3.10227 RB=26.9143 IRB=0.1 RBM=0.1
+RE=0.000472454 RC=1.04109 XTB=0.727762 XTI=1.04311
+EG=1.05 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
* Model generated on Feb 22, 2004
* Model format: SPICE3

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.MODEL bd136 pnp
+IS=1e-09 BF=681.414 NF=0.85 VAF=10
+IKF=0.196957 ISE=1e-08 NE=1.57381 BR=56.5761
+NR=1.5 VAR=0.975138 IKR=0.952908 ISC=1e-08
+NC=3.58666 RB=40.4245 IRB=0.1 RBM=0.106663
+RE=0.00034585 RC=1.31191 XTB=22.4074 XTI=1
+EG=1.05 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
* Model generated on Feb 22, 2004
* Model format: SPICE3